US05385925
a) Methyl-2-n-propyl-benzimidazole-5-carboxylate
A solution of 23.9 g (100 mMol) of methyl 3,4-diaminobenzoate dihydrochloride and 11.7 g (110 mMol) of butyric acid chloride in 100 ml of phosphorus oxychloride is refluxed for 2 hours. Then about 80 ml of phosphorus oxychloride are distilled off and the residue is mixed with about 150 ml of water. The oily crude product precipitated is extracted three times with 50 ml of ethyl acetate and after evaporation purified by column chromatography (600 g of silica gel; eluant: methylene chloride/methanol (30:1)).

reactant | methyl 3,4-diaminobenzoate dihydrochloride | 100 mMol, 23.9 g | Cl.Cl.NC=1C=C(C(=O)OC)C=CC1N
reactant | butyric acid chloride | 110 mMol, 11.7 g | C(CCC)(=O)Cl | C4H7ClO
solvent | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl-2-n-propyl-benzimidazole-5-carboxylate | COC(=O)C1=CC2=C(N=C(N2)CCC)C=C1 | C12H14N2O2
